US04624951
25 g of 3-nitro-4-chloro-benzoyl-propionic acid are stirred together with 25 ml of a 35% formaldehyde solution and 220 ml of 0.5N sodium hydroxide solution for 16 hours at room temperature. The reaction mixture is adjusted with 2N hydrochloric acid to pH 3, and is extracted with ethyl acetate. The ethyl acetate phases are washed with water, dried over sodium sulfate and concentrated by evaporation. The 3-(3-nitro-4-chlorobenzoyl)-3-hydroxymethyl-propionic acid obtained as residue is refluxed together with 9 ml of hydrazine hydrate and 800 ml of ethanol for 5 hours. The reaction mixture is afterwards concentrated by evaporation, and the residue is stirred together with 170 ml of dimethyl sulfoxide, 10 ml of morpholine and 15 ml of diisopropylethylamine for 3 hours at 80° C. The reaction mixture is subsequently concentrated under high vacuum in a rotary evaporator, and the residue is refluxed in 90 ml of methylene chloride for 30 minutes. The product which crystallises out on cooling of the reaction mixture with stirring to 0° C. is 6-(3-nitro-4-morpholino-phenyl)-5-hydroxymethyl-4,5-dihydro-3(2H)-pyridazinone, m.p. 210°-213° C.

reactant | 3-nitro-4-chloro-benzoyl-propionic acid | 25 g | [N+](=O)([O-])C=1C=C(C(=O)C(C(=O)O)C)C=CC1Cl | C10H8ClNO5
reactant | formaldehyde | C=O | CH2O
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium hydroxide | 0.5N, 220 ml | [OH-].[Na+]
product | 3-(3-nitro-4-chlorobenzoyl)-3-hydroxymethyl-propionic acid | [N+](=O)([O-])C=1C=C(C(=O)C(CC(=O)O)CO)C=CC1Cl | C11H10ClNO6
